US07897597B2
Potassium carbonate (110 g, 0.793 mol) was added to a solution of ethyl 5-hydroxy-2-(5-methyltetrazol-1-yl)benzoate (98.5 g, 0.397 mol) in 500 mL of DMF. After vigorous stirring for 30 minutes, benzyl bromide (75 g, 0.438) was added and the reaction was stirred overnight. The solution was filtered and then concentrated under reduced pressure (at 50° C.). The resulting solid was slurried in 400 mL of dichloromethane and filtered. The filtrate was concentrated under reduced pressure to give 115 g of ethyl 5-benzyloxy-2-(5-methyltetrazol-1-yl)benzoate as a brown oil.

reactant | Potassium carbonate | 0.793 mol, 110 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 5-hydroxy-2-(5-methyltetrazol-1-yl)benzoate | 0.397 mol, 98.5 g | OC=1C=CC(=C(C(=O)OCC)C1)N1N=NN=C1C | C11H12N4O3
reactant | benzyl bromide | 75 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | ethyl 5-benzyloxy-2-(5-methyltetrazol-1-yl)benzoate | 115 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C(=O)OCC)C1)N1N=NN=C1C | C18H18N4O3
